US08937071B2
Tin(II) chloride dihydrate (135 mg, 0.600 mmol) was added to a solution of 2-(5-nitro-3-(trifluoromethyl)pyridin-2-yl)propanenitrile (73.6 mg, 0.300 mmol) in EA (15 mL). The mixture was at 50° C. for 3 h. Then the solution was concentrated and distributed between EA and saturated NaHCO3 solution. The combined organic extract was washed with brine, dried over MgSO4, filtered and concentrated. The resulting 2-(5-amino-3-(trifluoromethyl)pyridin-2-yl)propanenitrile (55 mg, 0.256 mmol, 85.0% yield) was used to next step without further purification. TLC (PE/EA=5:1, Rf=0.5): 1H NMR (400 MHz, CDCl3) δ: 8.25 (s, 1H), 7.17 (d, J=2.2 Hz, 1H), 4.15-4.28 (m, 1H), 1.66 (d, J=7.1 Hz, 3H); ES-LCMS m/z 216.0 (M+H).

reactant | Tin(II) chloride dihydrate | 0.600 mmol, 135 mg | O.O.[Sn](Cl)Cl
reactant | 2-(5-nitro-3-(trifluoromethyl)pyridin-2-yl)propanenitrile | 0.300 mmol, 73.6 mg | [N+](=O)([O-])C=1C=C(C(=NC1)C(C#N)C)C(F)(F)F | C9H6F3N3O2
solvent | EA | 15 mL | CC(OCC)=O | C4H8O2
product | 2-(5-amino-3-(trifluoromethyl)pyridin-2-yl)propanenitrile | 0.256 mmol, 55 mg, 85.0% yield | NC=1C=C(C(=NC1)C(C#N)C)C(F)(F)F | C9H8F3N3
